US04931452
(Preparation of 3-Methoxy-5-(trifluoromethyl)-2-pyridinol
2,3-Dimethoxy-5-(trifluoromethyl)pyridine (8.8 g, 0.042 mol) was dissolved in 30 ml of glacial acetic acid, the mixture heated to 100° C. with stirring, and 14.8 ml of 48 percent aqueous hydrobromic acid (0.13 mol) added. The mixture was allowed to react for 20 min and was then poured onto ice. The solid that formed was recovered by filtration, dried, and recrystallized from ethanol to obtain 5.5 g (67 percent of theory) of the title compound as a white powder melting at 115°-117° C. The proton nmr spectrum was consistent with the assigned structure.

reactant | 2,3-Dimethoxy-5-(trifluoromethyl)pyridine | 0.042 mol, 8.8 g | COC1=NC=C(C=C1OC)C(F)(F)F | C8H8F3NO2
reactant | hydrobromic acid | 0.13 mol, 14.8 ml | Br | BrH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-Methoxy-5-(trifluoromethyl)-2-pyridinol | COC=1C(=NC=C(C1)C(F)(F)F)O | C7H6F3NO2
